US05623086
A 300-mL autoclave was charged with 40 mL (0.50 mol) of 3,4-epoxy-1-butene, 60.0 g (0.59 mol) acetic anhydride, 3.7 g (0.02 mol) of tributylamine, 0.72 g (0.012 mol) acetic acid and 4.2 mL of diglyme. The autoclave was purged with nitrogen twice, then the vessel was pressurized to 8 bars (100 psig) with nitrogen. The agitator was started and an initial sample was taken. The mixture was heated to 125° C. During the course of 2 hrs, samples were taken every 15 min for analysis by GC. GC analysis of the crude mixture after 2 hrs revealed a 79% yield of 3,4-diacetoxy-1-butene with a 90% selectivity and 12% 3,4-epoxy-1-butene. The reaction was observed to be first order in 3,4-epoxy-1-butene with a first order rate constant of 0.017 min-1 (Table A). This example shows the catalytic effect of another tertiary amine with acetic acid as the co-catalyst.

reactant | 3,4-epoxy-1-butene | 0.50 mol, 40 mL | O1C(C=C)C1 | C4H6O
reactant | acetic anhydride | 0.59 mol, 60.0 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | tributylamine | 0.02 mol, 3.7 g | C(CCC)N(CCCC)CCCC | C12H27N
reactant | acetic acid | 0.012 mol, 0.72 g | C(C)(=O)O | C2H4O2
solvent | diglyme | 4.2 mL | COCCOCCOC | C6H14O3
product | 3,4-diacetoxy-1-butene | 79% yield | C(C)(=O)OC(C=C)COC(C)=O | C8H12O4
